US07265246B2
Prepare a solution of potassium phthalimide (457 mg, 2.47 mmol) in dimethylformamide (6 mL). Add a solution of 4-bromomethyl-2-phenyl-thiophene (523 mg, 2.06 mmol) in dimethylformamide (6 mL), dropwise. Stir the reaction mixture overnight at room temperature under nitrogen. Concentrate the solution, redissolve in ethyl acetate, wash with saturated aqueous sodium hydrogencarbonate (20 mL), then brine (20 mL). Dry (magnesium sulfate), filter aid concentrate. Preform flash chromatography of the resulting residue on silica gel eluting with 5:1 hexane/ethyl acetate to afford 565 mg of 2-(5-phenylthiophen-3-ylmethyl)isoindole-1,3-dione as a yellow solid. 1H NMR (CDCl3) δ 7.84-7.88 (m, 2H), 7.70-7.72 (m, 2H0, 7.54-7.57 (m, 2H), 7.25-7.34 (m, 5H), 4.83 (s, 2H).

reactant | potassium phthalimide | 2.47 mmol, 457 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 4-bromomethyl-2-phenyl-thiophene | 2.06 mmol, 523 mg | BrCC=1C=C(SC1)C1=CC=CC=C1 | C11H9BrS
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 2-(5-phenylthiophen-3-ylmethyl)isoindole-1,3-dione | 565 mg | C1(=CC=CC=C1)C1=CC(=CS1)CN1C(C2=CC=CC=C2C1=O)=O | C19H13NO2S
